US04891375
B. 4-(4-(2-(4-(1-Naphthyl)piperazinyl)ethyl)phenyl)-2-methylthiazole
To a 125 ml round-bottomed flask equipped with condenser and N2 inlet were added 2.39 g (7.5 mmol) of 4-(4-(2-chloroethyl)phenyl)-2-methylthiazole hydrobromide, 1.59 g (7.5 mmol) of N-(1-naphthyl)piperazine, 1.31 ml (7.5 mmol) of diisopropylethylamine, 1.59 g (15 mmol) of sodium carbonate, 5 mg of sodium iodide, and 50 ml of methylisobutylketone. The reaction was heated at reflux for 5 days, cooled, and the precipitate filtered. The solid was taken up in methylene chloride, washed with sodium bicarbonate, dried over sodium sulfate, treated with methylene chloride saturated with hydrochloride, evaporated, and the residue triturated with ether to afford a white solid, m.p. 305°-307° C., 1.76 g (48%).

reactant | 4-(4-(2-chloroethyl)phenyl)-2-methylthiazole hydrobromide | 7.5 mmol, 2.39 g | Br.ClCCC1=CC=C(C=C1)C=1N=C(SC1)C
reactant | N-(1-naphthyl)piperazine | 7.5 mmol, 1.59 g | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | diisopropylethylamine | 7.5 mmol, 1.31 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 15 mmol, 1.59 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | methylisobutylketone | 50 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(2-(4-(1-Naphthyl)piperazinyl)ethyl)phenyl)-2-methylthiazole | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCC1=CC=C(C=C1)C=1N=C(SC1)C | C26H27N3S
